US04939253
(B) N2 -(t-Butyloxycarbonyl)-O-(methylsulfonyl)-N-(phenylmethoxy)-L-threonineamid
N2 -(t Butyloxycarbonyl)-N-(Phenylmethoxy)-L-threonineamide (244 g) was dissolved in 1.2 liters of pyridine and the solution was cooled to 0° C. With stirring 120 grams of methanesulfonyl chloride was added dropwise at 0°-5° C. After 2.5 hours, the reaction mixture was poured into a mixture of 1500 ml of 2N hydrochloric acid and ice and concentrated HCl was added to adjust the pH of the mixture to 4. The title compound crystallized, and, after stirring for 1 hour, was filtered off, washed with water and petroleum ether. After drying at room temperature the yield was 356.4 grams, which contained a considerable amount of water, melting point 128°-130° C. dec.

reactant | N2 (t Butyloxycarbonyl)-N-(Phenylmethoxy)-L-threonineamide | 244 g | N#N.C(C)(C)(C)OC(=O)N[C@@H]([C@H](O)C)C(=O)NOCC1=CC=CC=C1
reactant | methanesulfonyl chloride | 120 grams | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 2N, 1500 ml | Cl | ClH
solvent | pyridine | 1.2 liters | N1=CC=CC=C1 | C5H5N
product | N2 (t-Butyloxycarbonyl)-O-(methylsulfonyl)-N-(phenylmethoxy)-L-threonineamid | N#N.C(C)(C)(C)OC(=O)N[C@@H]([C@H](OS(=O)(=O)C)C)C(=O)NOCC1=CC=CC=C1 | InChI=1S/C17H26N2O7S.N2/c1-12(26-27(5,22)23)14(18-16(21)25-17(2,3)4)15(20)19-24-11-13-9-7-6-8-10-13;1-2/h6-10,12,14H,11H2,1-5H3,(H,18,21)(H,19,20);/t12-,14+;/m1./s1
